US07700638B2
7-(1-Methyl-5-indolyl)-1-phenyl-5-trifluoromethylbenzimidazole
A mixture of 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole (1.0 g, 2.5 mmol), 1-methyl-5-indolyl boronic acid (0.65 g, 3.73 mmol), 1,3-propanediol (0.9 ml, 12.4 mmol), potassium carbonate (1.71 g, 12.4 mmol) and bis(triphenylphosphin)palladium dichloride (100 mg, 0.14 mmol) in a mixture of dimethoxyethane (20 ml) and water (10 ml) was stirred at reflux in a nitrogen atmosphere for 1 hour. The cooled reaction mixture was partitioned between ethyl acetate and water and the organic layer was dried over magnesium sulphate and evaporated under reduced pressure. The residue was triturated in ethanol to afford the title product as an off-white solid (0.82 g, 84%) m/z, 392.1 (M+H)+.

reactant | 7-iodo-1-phenyl-5-trifluoromethylbenzimidazole | 2.5 mmol, 1.0 g | IC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C14H8F3IN2
reactant | 1-methyl-5-indolyl boronic acid | 3.73 mmol, 0.65 g | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
reactant | 1,3-propanediol | 12.4 mmol, 0.9 ml | C(CCO)O | C3H8O2
reactant | potassium carbonate | 12.4 mmol, 1.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | bis(triphenylphosphin)palladium dichloride | 0.14 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(1-Methyl-5-indolyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.82 g, 84% | CN1C=CC2=CC(=CC=C12)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C23H16F3N3
